US07781438B2
Preparation of 3-Methoxy-benzene-1,2-dicarbaldehyde
A solution of DMSO (63.35 g, 810.8 mmol, 4.4 equiv) in CH2Cl2 (190 ml) was slowly added at −78° C. under an atmosphere of argon to a solution of oxalyl chloride (51.46 g, 405.4 mmol, 2.2 equiv) in CH2Cl2 (600 ml). A solution of (2-hydroxymethyl-6-methoxy-phenyl)-methanol (30.97 g, 184.3 mmol) in CH2Cl2 (250 ml) was added dropwise, while maintaining the temperature of the reaction mixture below −68° C. 90 minutes after completed addition, triethylamine (335.65 g, 3.317 mol, 18 equiv) was slowly added at −78° C. The reaction mixture was warmed to room temperature over 2 hours, at which point TLC analysis indicated complete conversion. Water (500 ml) was added, and the mixture was extracted with CH2Cl2 (4 liters in total). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via flash chromatography (gradient of hexane/EtOAc 100:0 to 0:100) afforded 28.78 g of a orange-brown solid, which was recrystallized from CH2Cl2/hexane to give a first crop of pure title compound (brown solid, 9.68 g). Further purification of the mother liquor via flash chromatography and recrystallization afforded another 7.95 g of pure title compound (total: 17.63 g, 58%). 1H NMR (400 MHz, CDCl3): δ=10.64 (s, 1H), 10.42 (s, 1H), 7.64 (t, J=7.9 Hz, 1H), 7.44 (d, J=7.8 Hz, 1H), 7.23 (dd, J=8.5/0.9 Hz, 1H), 3.97 (s, 3H). MS (ES+): 165 (M+H)+.

reactant | DMSO | 810.8 mmol, 63.35 g, 4.4 equiv | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 405.4 mmol, 51.46 g, 2.2 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-hydroxymethyl-6-methoxy-phenyl)-methanol | 184.3 mmol, 30.97 g | OCC1=C(C(=CC=C1)OC)CO | C9H12O3
reactant | triethylamine | 3.317 mol, 335.65 g, 18 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 190 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 500 ml | O | H2O
product | 3-Methoxy-benzene-1,2-dicarbaldehyde | 28.78 g | COC1=C(C(=CC=C1)C=O)C=O | C9H8O3
